US07125901B2
N-{2-[4-(2-Chloroacetyl)phenyl]ethyl}acetamide (1.06 g) and thiourea (505 mg) were dissolved in ethanol (20 mL). The mixture was refluxed for 1 hour and allowed to cool to room temperature. The white solid was collected with filtration and washed with ethanol to give N-{2-[4-(2-amino-1,3-thiazol-4-yl)phenyl]ethyl}acetamide hydrochloride (1.19 g, 90.4%).

reactant | N-{2-[4-(2-Chloroacetyl)phenyl]ethyl}acetamide | 1.06 g | ClCC(=O)C1=CC=C(C=C1)CCNC(C)=O | C12H14ClNO2
reactant | thiourea | 505 mg | NC(=S)N | CH4N2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-{2-[4-(2-amino-1,3-thiazol-4-yl)phenyl]ethyl}acetamide hydrochloride | 1.19 g, 90.4% | Cl.NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(C)=O | InChI=1S/C13H15N3OS.ClH/c1-9(17)15-7-6-10-2-4-11(5-3-10)12-8-18-13(14)16-12;/h2-5,8H,6-7H2,1H3,(H2,14,16)(H,15,17);1H
